US07338958B2
la) Production of (R)-2-[(5-bromo-2-chloropyrimidin-4-yl)amino]propanal
A solution of 40.0 g (135.8 mmol) of methyl-N-(5-bromo-2-chloropyrimidin-4-yl)-D-alaninate in 800 ml of toluene is mixed at −78° C. with 310 ml of a 1.2 molar solution of diisobutyl aluminum hydride. After 30 minutes, it is carefully quenched with methanol. The batch is heated to room temperature and diluted with 1000 ml of tert-butyl methyl ether. It is washed successively with 1N HCl (3×100 ml), saturated sodium bicarbonate solution (3×) and saturated NaCl solution (3×). The organic phase is dried (MgSO4), filtered and concentrated by evaporation. The remaining residue is purified by chromatography (hexane/ethyl acetate: 4:1-1:1). 22.5 g (83.9 mmol, corresponding to 62% of theory) of the product is obtained.

reactant | methyl-N-(5-bromo-2-chloropyrimidin-4-yl)-D-alaninate | 135.8 mmol, 40.0 g | COC([C@H](NC1=NC(=NC=C1Br)Cl)C)=O | C8H9BrClN3O2
reactant | diisobutyl aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-2-[(5-bromo-2-chloropyrimidin-4-yl)amino]propanal | BrC=1C(=NC(=NC1)Cl)N[C@@H](C=O)C | C7H7BrClN3O
